US05998424
1-[(4-methoxy)phenyl]-5-(methoxycarbonyl)pyrazole-3-carboxylic acid
To a solution of dimethyl 1-[(4-methoxy)phenyl]pyrazole-3, 5-dicarboxylate (32.7 g, 110 mmol) in 50 mL of dioxane and 100 mL of water was added concentrated sulfuric acid (1.50 mL, 28.2 mmol). The resulting solution was stirred at 100° C. for 18 h and then cooled to room temperature. The reaction was made basic with potassium carbonate and then extracted with ether to remove unreacted diester. The aqueous layer was acidified with HCl and was extracted twice with ethyl acetate. The combined organics were washed with brine, dried (MgSO4) and concentrated to afford 19.2 g (63%) of the title compound along with 5.0 g (15%) of unreacted starting material. The title compound was used without further purification. LRMS (ES-): 274.9 (M-H)-.

reactant | dimethyl 1-[(4-methoxy)phenyl]pyrazole-3, 5-dicarboxylate | 110 mmol, 32.7 g | COC1=CC=C(C=C1)N1N=C(C=C1C(=O)OC)C(=O)OC | C14H14N2O5
reactant | sulfuric acid | 28.2 mmol, 1.50 mL | S(O)(O)(=O)=O | H2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | 1-[(4-methoxy)phenyl]-5-(methoxycarbonyl)pyrazole-3-carboxylic acid | 19.2 g, 63% | COC1=CC=C(C=C1)N1N=C(C=C1C(=O)OC)C(=O)O | C13H12N2O5
